US05688487
B. Preparation of 3-Chloro-3-methyl-2-nitroso-1-(4-methyl-2-nitro-1H-imidazol-1-yl)butane
Concentrated HCl (20 mL) was added from an addition flask to a mixture of 1-(4-methyl-2-nitro-1H-imidazol-1-yl)-3-methyl-2-butene (5.0 g, 25.64) and isoamyl nitrite (20 mL), keeping the temperature in the range of 0° C. to 5° C. After the addition the reaction mixture was stirred at ice-cold temperature for 30 minutes. The solid which formed was removed by filtration and washed with ice-cold ethanol. The solid was dispersed in acetonitrile, cooled 0° C. and filtered to provide the title product as a light blue colored solid; yield: 4.97 g (62%); mp. 110°-113° C. (decomp); 1H NMR (DMSO-d6) δ 1.81 [s, 6H, C(CH3)2 ], 2.16 (s, 3H, imi-CH3), 5.36 (s, 2H, NCH2), 7.12 (s, 1H, imi-CH) and 11.98 (s, 1H, NOH). MS m/e 261 (M+H)+.

reactant | HCl | 20 mL | Cl | ClH
reactant | 1-(4-methyl-2-nitro-1H-imidazol-1-yl)-3-methyl-2-butene | 5.0 g | CC=1N=C(N(C1)CC=C(C)C)[N+](=O)[O-] | C9H13N3O2
reactant | isoamyl nitrite | 20 mL | N(=O)OCCC(C)C | C5H11NO2
product | 3-Chloro-3-methyl-2-nitroso-1-(4-methyl-2-nitro-1H-imidazol-1-yl)butane | ClC(C(CN1C(=NC(=C1)C)[N+](=O)[O-])N=O)(C)C | C9H13ClN4O3
